US08980888B2
<Step 1> Synthesis of 2-phenyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid
10% Palladium-carbon (3 g) and concentrated hydrochloric acid (3.1 ml) were added to a mixed solution of methanol (200 ml) and methylene chloride (150 ml) containing the 2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid (3 g) obtained in (Example 3.18) <Step 4>, and the obtained mixture was then stirred in a hydrogen atmosphere for 15 hours. Thereafter, the reaction solution was heated to 40° C., and then, it was further stirred for 4 hours. Thereafter, the reaction solution was filtered with Celite, and was then washed with methanol. The filtrate was concentrated under reduced pressure, and the solvent was then distilled away. After that, methanol (20 ml) and a 4 N sodium hydroxide aqueous solution (9 ml) were added to the residue, and the obtained mixture was then stirred at 50° C. for 30 minutes. Thereafter, the solvent was distilled away under reduced pressure, and a 1 N hydrochloric acid aqueous solution (9 ml) was then added to the residue. The generated solid was collected by filtration, and was then washed with water (10 ml). The obtained solid was dried under reduced pressure at 45° C. for 15 hours, so as to obtain the title compound (2.4 g) in the form of a white solid.

reactant | hydrochloric acid | 3.1 ml | Cl | ClH
reactant | methanol | 200 ml | CO | CH4O
reactant | 2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid | 3 g | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2)C(=O)O)=N1 | C13H9N3O2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 3 g | [C].[Pd]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-phenyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid | 2.4 g | C1(=CC=CC=C1)C1=NN2C(CC(CC2)C(=O)O)=N1 | C13H13N3O2
